US07541341B2
To a solution of 2-(4-ethylbenzyl)-5-hydroxymethylphenyl β-D-glucopyranoside (0.075 g) in 2,4,6-trimethypyridine (2 mL) was added ethyl chloroformate (0.037 mL, 2 mol equivalent), and the mixture was stirred at room temperature for 17 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with 1 mol/L hydrochloric acid and water, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (eluent: dichloromethane/-methanol=10/1) and recrystallized (recrystallization solvent: acetone/hexane=1/1) to give 2-(4-ethylbenzyl)-5-hydroxymethylphenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside (0.020 g).

reactant | 2-(4-ethylbenzyl)-5-hydroxymethylphenyl β-D-glucopyranoside | 0.075 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC(=C1)CO)CC1=CC=C(C=C1)CC | C22H28O7
reactant | ethyl chloroformate | 2 mol, 0.037 mL | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | 2,4,6-trimethypyridine | 2 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 2-(4-ethylbenzyl)-5-hydroxymethylphenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside | 0.020 g | C(C)OC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC2=C(C=CC(=C2)CO)CC2=CC=C(C=C2)CC)O1)O)O)O | C25H32O9
